US06599917B1
d) 2-Benzyl-6-pyridyl Trifluoromethanesulfonate
A mixture of 10 g of 2-benzyl-6-hydroxypyridine, 23 g of N-phenyltrifluoromethanesulfonimide, 0.66 g of 4-dimethylaminopyridine, 23 ml of triethylamine and 100 ml of dichloromethane was stirred at room temperature in a water bath for one hour. The reaction solution was evaporated and the residue was subjected to silica gel column chromatography using 2-3% ethyl acetate/hexane and further filtered through NH-silica gel (Fuji Silicia Kagaku) and eluted with 3% ethyl acetate/hexane. The eluate was evaporated, to give 11.7 g of the target compound.

reactant | 2-benzyl-6-hydroxypyridine | 10 g | C(C1=CC=CC=C1)C1=NC(=CC=C1)O | C12H11NO
reactant | N-phenyltrifluoromethanesulfonimide | 23 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 23 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.66 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-Benzyl-6-pyridyl Trifluoromethanesulfonate | 11.7 g | FC(S(=O)(=O)OC1=CC=CC(=N1)CC1=CC=CC=C1)(F)F | C13H10F3NO3S
